US07192943B2
To a stirred solution of phenyl [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]carbamate (5.45 g) in N,N-dimethylformamide (55 ml) were added triethylamine (8.69 ml) and trityl chloride (6.37 g), and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave a crude product, which was triturated with ethyl acetate-diisopropyl ether (1:2). The resulting solid was collected by filtration to give phenyl [1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (3.5 g).

reactant | phenyl [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]carbamate | 5.45 g | NC1=C(C=NN1CCO)NC(OC1=CC=CC=C1)=O | C12H14N4O3
reactant | triethylamine | 8.69 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 6.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
product | phenyl [1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 3.5 g | OCCN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C31H28N4O3
